US09238644B2
(c) 2-(2-Ethynylphenyl)propanamide (K7)
A cooled (0° C. water/ice bath) solution of 2-(2-((triethylsilyl)ethynyl)phenyl)propanamide I14 (7.17 g, 24.9 mmol) in THF (40 mL) was slowly treated with a 1.0 M solution of tetrabutylammonium fluoride in THF (26.2 mL, 26.2 mmol) under a nitrogen atmosphere. The resulting mixture was stirred at 0° C. for 5 minutes before a sat. aq. NaHCO3 solution was added. The mixture was extracted with EtOAc (3 times), the combined organic extracts were washed with brine, dried (Na2SO4) and evaporated in vacuo to give the crude product. The crude product was purified by silica gel column chromatography (Combiflash Rf, 30-80% EtOAc in cyclohexane) to give the title compound K7 as a cream solid (3.69 g, 85%). LCMS-B: rt 3.031 min; m/z 174 [M+H]+.

reactant | 2-(2-((triethylsilyl)ethynyl)phenyl)propanamide | C(C)[Si](CC)(CC)C#CC1=C(C=CC=C1)C(C(=O)N)C | C17H25NOSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 26.2 mmol, 26.2 mL | C1CCOC1 | C4H8O
product | 2-(2-Ethynylphenyl)propanamide | C(#C)C1=C(C=CC=C1)C(C(=O)N)C | C11H11NO
